datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[C@H]1C[NH+:21]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH-:10])cc2)cc(C(=O)[O-])c1O>>CC(C)[C@H]1C[NH:21][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH:10][H:20])cc2)cc(C(=O)[O-])c1O 10=20;20,21=21",
"O[C@H]1CCC[C@@H]([NH2:10])C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O[C@H]1CCC[C@@H]([NH2+:10][H:20])C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C[NH2:10])C(=O)[O-].Nc1nc([O-])[n+:21]([H:20])c2nc[nH]c12>>CC(C[NH2+:10][H:20])C(=O)[O-].Nc1nc([O-])[n:21]c2nc[nH]c12 10=20;20,21=21",
"Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n+:21]([H:20])c1C.O=S(=O)(C(F)(F)F)[N-:10]c1ccc(Cl)cc1>>Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n:21]c1C.O=S(=O)(C(F)(F)F)[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"Cc1nc(N)nc(N)[n:10]1.FC(F)(F)c1nc([O:21][H:20])c2[nH]c[nH+]c2n1>>Cc1nc(N)nc(N)[n+:10]1[H:20].FC(F)(F)c1nc([O-:21])c2[nH]c[nH+]c2n1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2c(ccc[n+:21]2[H:20])[nH]1.O=Cc1ccc(C[NH2:10])o1>>COc1cc(S(C)=O)ccc1-c1nc2c(ccc[n:21]2)[nH]1.O=Cc1ccc(C[NH2+:10][H:20])o1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)SCC(=O)[O:21][H:20].CN(C)/C=[N:10]\c1ccccc1>>CC(C)SCC(=O)[O-:21].CN(C)/C=[N+:10](\c1ccccc1)[H:20] 10=20;20,21=21",
"O=C1C=C(c2ccc([O:21][H:20])cc2)Oc2ccccc21.SCC[N:10](Cc1ccccc1)Cc1ccccc1>>O=C1C=C(c2ccc([O-:21])cc2)Oc2ccccc21.SCC[N+:10](Cc1ccccc1)(Cc1ccccc1)[H:20] 10=20;20,21=21",
"Cc1[nH]c2ccccc2c1C(=O)[O:21][H:20].SCc1[nH]cc[n:10]1>>Cc1[nH]c2ccccc2c1C(=O)[O-:21].SCc1[nH]cc[n+:10]1[H:20] 10=20;20,21=21",
"CC(CC(C#N)(c1ccccc1)c1ccccc1)[N:10](C)C.CC[n+]1ccc([O-])[n+:21]([H:20])c1[S-]>>CC(CC(C#N)(c1ccccc1)c1ccccc1)[N+:10](C)(C)[H:20].CC[n+]1ccc([O-])[n:21]c1[S-] 10=20;20,21=21",
"OCc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n:10]c2c1O.Cn1cnc2c1c([O-])[n+:21]([H:20])c([O-])[n+]2C>>C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n+:10]([H:20])c2c1O.Cn1cnc2c1c([O-])[n:21]c([O-])[n+]2C 10=20;20,21=21",
"O=C(c1cnc(Cl)s1)[O:21][H:20].OCc1ccc([O-:10])c(CO)c1>>O=C(c1cnc(Cl)s1)[O-:21].OCc1ccc([O:10][H:20])c(CO)c1 10=20;20,21=21",
"COCC[NH:10]c1ccccc1.O=C1CSc2c(c(N3CCOCC3)nc[n+:21]2[H:20])N1>>COCC[NH+:10](c1ccccc1)[H:20].O=C1CSc2c(c(N3CCOCC3)nc[n:21]2)N1 10=20;20,21=21",
"Cc1cc(C)c([O-:10])cc1C(C)C.O=C(CC[C@H]1CC[C@H](O)CC1)[O:21][H:20]>>Cc1cc(C)c([O:10][H:20])cc1C(C)C.O=C(CC[C@H]1CC[C@H](O)CC1)[O-:21] 10=20;20,21=21",
"O=C(c1cccc(Br)c1)[O-:10].O=[N+]([O-])c1cc([N+](=O)[O-])c2cn[nH]c2c1[O:21][H:20]>>O=C(c1cccc(Br)c1)[O:10][H:20].O=[N+]([O-])c1cc([N+](=O)[O-])c2cn[nH]c2c1[O-:21] 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[NH+:10](CCCC(=O)[O-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(C)CCCCc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)CCCCc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1ccc([NH2:10])cc1.Nc1cccc2cc[n+:21]([H:20])cc12>>CCc1ccc([NH2+:10][H:20])cc1.Nc1cccc2cc[n:21]cc12 10=20;20,21=21",
"C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:10])[C@@H](C)[C@H]1N.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:10][H:20])[C@@H](C)[C@H]1N.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(CCl)[n+:21]2[H:20].C[NH+](C)CCCNc1cc[n:10]c2cc([N+](=O)[O-])ccc12>>COc1ccc(OC)c2c1n(C)c(CCl)[n:21]2.C[NH+](C)CCCNc1cc[n+:10]([H:20])c2cc([N+](=O)[O-])ccc12 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CCCCC[NH2:10])ccn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CCCCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CC[N+:21]1([H:20])CCCC1.O=C1C=C(c2ccccc2)Oc2c1cccc2[O-:10]>>CC[N:21]1CCCC1.O=C1C=C(c2ccccc2)Oc2c1cccc2[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(c1cc[nH+]cc1)[H:20].O=P([O-])([O-])c1ccc(S(=O)(=O)[NH-:10])cc1>>C[N:21](C)c1cc[nH+]cc1.O=P([O-])([O-])c1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"CC[N:10](C)CCCNC(=O)/C=N/[O-].C[NH+](C)CCNS(=O)(=O)c1cccc2c([N+:21](C)(C)[H:20])cccc12>>CC[N+:10](C)(CCCNC(=O)/C=N/[O-])[H:20].C[NH+](C)CCNS(=O)(=O)c1cccc2c([N:21](C)C)cccc12 10=20;20,21=21",
"C[n+]1ccc(-c2nc3ccccc3[n:21]2[H:20])cc1.NNC(=O)C[NH2:10]>>C[n+]1ccc(-c2nc3ccccc3[n-:21]2)cc1.NNC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCNCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCC[NH+:21](CCC(N)=NO)[H:20].O=C([O-])CCC(=O)[N-:10]OCc1ccccc1>>CCCC[NH:21]CCC(N)=NO.O=C([O-])CCC(=O)[N:10](OCc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])NC2CCC1C21CC1.CC[NH+](CC)CCNc1nc(C)[n:10]c(Nc2ccc(Cl)cc2)n1>>CC(C)(C)[N:21]1NC2CCC1C21CC1.CC[NH+](CC)CCNc1nc(C)[n+:10]([H:20])c(Nc2ccc(Cl)cc2)n1 10=20;20,21=21",
